US09283555B2
N1-(2,6-diisopropylphenyl)-N2-(diphenylphosphino) benzamidine (NP Amidine II)
Procedure as described for NP Amidine I using the following amounts: 4.20 g N1-(2,6-diisopropylphenyl)benzamidine (15.0 mmol), 7.50 mL of 2.0 M butyllithium (15.0 mmol), 2.70 mL of chlorodiphenylphosphine (15.0 mmol). Following removal of lithium chloride via filtration and removal of solvent in vacuo, the sticky residue was dissolved in 20 mL of pentane, reduced in volume to 5 mL (cold), producing a while solid that was filtered and dried (5.33 g, 76%).

reactant | N1-(2,6-diisopropylphenyl)benzamidine | 15.0 mmol, 4.20 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(C1=CC=CC=C1)=N | C19H24N2
reactant | butyllithium | 15.0 mmol, 2.0 M, 7.50 mL | C(CCC)[Li]
reactant | chlorodiphenylphosphine | 15.0 mmol, 2.70 mL | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
product | N1-(2,6-diisopropylphenyl)-N2-(diphenylphosphino) benzamidine | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(C1=CC=CC=C1)=NP(C1=CC=CC=C1)C1=CC=CC=C1 | C31H33N2P
